US08232284B2
With cooling with ice, triethylamine (0.57 ml, 4.06 mmol) and N,N,N′-trimethylpropane-1,3-diamine (0.34 ml, 2.23 mmol) were added to a tetrahydrofuran solution (5 ml) of 5,6-dichloropyridin-3-sulfonyl chloride (500 mg, 2.03 mmol), and stirred for 5 minutes. Saturated saline water was added to the reaction solution, extracted with chloroform, and the organic layer was dried over anhydrous sodium sulfate, concentrated under reduced pressure. The obtained residue was purified by amine-type silica gel column chromatography (Biotage NH, hexane:ethyl acetate=6:1 to 4:1) to obtain 5,6-dichloro-N-[3-(dimethylamino)propyl]-N-methylpyridine-3-sulfonamide (454 mg, yield: 69%) as a red solid.

reactant | triethylamine | 4.06 mmol, 0.57 ml | C(C)N(CC)CC | C6H15N
reactant | N,N,N′-trimethylpropane-1,3-diamine | 2.23 mmol, 0.34 ml | CN(CCCNC)C | C6H16N2
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | 5,6-dichloropyridin-3-sulfonyl chloride | 2.03 mmol, 500 mg | ClC=1C=C(C=NC1Cl)S(=O)(=O)Cl | C5H2Cl3NO2S
solvent | water | O | H2O
product | 5,6-dichloro-N-[3-(dimethylamino)propyl]-N-methylpyridine-3-sulfonamide | 454 mg, yield: 69% | ClC=1C=C(C=NC1Cl)S(=O)(=O)N(C)CCCN(C)C | C11H17Cl2N3O2S
